US04472310
A solution of 21 g of 3β-hydroxy-15β,16β-methylene-5-androsten-18-one in 210 ml of tetrahydrofuran was stirred with 21 g of lithium tri-tert.-butoxyaluminohydride for 1 hour at room temperature. The mixture was then diluted with diethyl ether, washed with 2N sulfuric acid and water, dired, and evaporated, thus obtaining 19 g of 15β,16β-methylene-5-androstene-3β,17β-diol, used without further purification in the subsequent stage.

reactant | 3β-hydroxy-15β,16β-methylene-5-androsten-18-one | 21 g | O[C@@H]1CC2=CC[C@H]3[C@@H]4[C@H]5[C@@H](C[C@@]4(C=O)CC[C@@H]3[C@]2(CC1)C)C5 | C20H28O2
reactant | lithium tri-tert.-butoxyaluminohydride | 21 g | C(C)(C)(C)O[AlH-](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | tetrahydrofuran | 210 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 15β,16β-methylene-5-androstene-3β,17β-diol | 19 g | C1[C@@H]2[C@H]1[C@@H]([C@]1(C)[C@@H]2[C@@H]2CC=C3C[C@H](CC[C@]3(C)[C@H]2CC1)O)O | C20H30O2
